US08372813B2
To a stirring solution of 2(S)-hydroxy-4-amino-butyric acid (0.059 g, 0.50 mmol) in DMF (2 ml) was added N,N′-bis(benzyloxycarbonyl)-1H-pyrazole-1-carboxamidine (0.26 g, 0.70 mmol) followed by DIPEA (0.87 mL, 4.99 mmol) and the reaction was heated to 80° C. and stirred overnight. The crude mixture was purified on a 2-inch reverse-phase HPLC column to yield N,N′-bis-Cbz-2(S)-hydroxy-4-guanidino-butyric acid: MS: m/z (M+H)+ calcd. 430.15, found 430.1.

reactant | 2(S)-hydroxy-4-amino-butyric acid | 0.50 mmol, 0.059 g | O[C@H](C(=O)O)CCN | C4H9NO3
reactant | N,N′-bis(benzyloxycarbonyl)-1H-pyrazole-1-carboxamidine | 0.70 mmol, 0.26 g | C(C1=CC=CC=C1)OC(=O)NC(=NC(=O)OCC1=CC=CC=C1)N1N=CC=C1 | C20H18N4O4
reactant | DIPEA | 4.99 mmol, 0.87 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N,N′-bis-Cbz-2(S)-hydroxy-4-guanidino-butyric acid | C(=O)(OCC1=CC=CC=C1)N(C(=NC(=O)OCC1=CC=CC=C1)N)CC[C@@H](C(=O)O)O | C21H23N3O7
